US04661512
(1) benzyl N-[2-ethylhexanoyl]-(L)-pyroglutamate
39.4 g (180 mmol) of benzyl (L)-pyroglutamate, prepared according to Example II(1), are dissolved in 160 ml of chloroform and 28.4 g (28 mmol) of triethylamine at ordinary temperature. A solution of 29.3 g (180 mmol) of 2-ethylhexanoyl chloride in 40 ml of chloroform is run in and the mixture is heated under reflux for 5 hours.

reactant | benzyl (L)-pyroglutamate | 180 mmol, 39.4 g | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | triethylamine | 28 mmol, 28.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethylhexanoyl chloride | 180 mmol, 29.3 g | C(C)C(C(=O)Cl)CCCC | C8H15ClO
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl N-[2-ethylhexanoyl]-(L)-pyroglutamate | C(C)C(C(=O)N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1)CCCC | C20H27NO4
